US04663336
A. Phenoxyacetyl glycine
Glycine (20 mmol) was reacted with distilled phenoxyacetyl chloride (22 mmol) in the presence of NaOH (40 mmol) in a mixture of water and ether as described in Example 5 Part A. The crude product was recrystallized from EtOAc (15 ml) to give title acid (2.38 gm, 57%).

reactant | Glycine | 20 mmol | NCC(=O)O | C2H5NO2
reactant | phenoxyacetyl chloride | 22 mmol | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | NaOH | 40 mmol | [OH-].[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | Phenoxyacetyl glycine | O(C1=CC=CC=C1)CC(=O)NCC(=O)O | C10H11NO4
